US07271153B2
To a solution of 4-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-5-(4-methoxybenzyl)-2,6-dimethylpyrimidine (0.24 g) in methanol (4 mL) was added sodium methoxide (28% solution in methanol, 0.040 mL), and the mixture was stirred for 50 minutes at room temperature. After the reaction mixture was concentrated under reduced pressure, the residue was purified by column chromatography on silica gel (eluent: dichloro-methane/methanol=7/1) to give 4-(β-D-glucopyranosyloxy)-5-(4-methoxybenzyl)-2,6-dimethylpyrimidine (0.11 g).

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-5-(4-methoxybenzyl)-2,6-dimethylpyrimidine | 0.24 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NC(=NC(=C1CC1=CC=C(C=C1)OC)C)C | C28H34N2O11
reactant | sodium methoxide | 0.040 mL | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-(β-D-glucopyranosyloxy)-5-(4-methoxybenzyl)-2,6-dimethylpyrimidine | 0.11 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NC(=NC(=C1CC1=CC=C(C=C1)OC)C)C | C20H26N2O7
